US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(2-methoxy-2-oxoethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (1.06 g) was dissolved in dimethylformamide (20 ml), methyl bromoacetate (390 μl) and cesium carbonate (2.02 g) were added and the mixture was stirred at 55° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:9)-ethyl acetate was concentrated under reduced pressure to give the object product (1.19 g).

reactant | tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.06 g | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | methyl bromoacetate | 390 μl | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 2.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (3S,5R)-3-[{[1-(2-methoxy-2-oxoethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.19 g | COC(CN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C30H43N5O7
